US07678815B2
A microwave vial was charged with 5-amino-2-methyl-thiazole-4-carboxylic acid ethyl ester (0.300 g, 1.61 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (0.28 g, 0.48 mmol) and palladium dibenzylideneacetone (Pd2dba3)-chloroform complex (0.17 g, 0.16 mmol). Degassed dioxane (15.00 ml) was added, followed by 3-bromobenzenesulfonamide (0.38 g, 1.61 mmol) and cesium carbonate (0.93 g, 2.87 mmol) The vial was then irradiated in a microwave oven at 150° C. for 15 min. The mixture was diluted with THF and the solids filtered, washing with THF. The filtrate was evaporated and the residue purified by flash chromatography (heptane ethyl acetate) to yield 2-methyl-5-(3-sulfamoyl-phenylamino)-thiazole-4-carboxylic acid ethyl ester (0.13 g, 24%) as an off-white solid, MS (ISP): m/e=342.1 (M+H+).

reactant | 5-amino-2-methyl-thiazole-4-carboxylic acid ethyl ester | 1.61 mmol, 0.300 g | C(C)OC(=O)C=1N=C(SC1N)C | C7H10N2O2S
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.48 mmol, 0.28 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | 3-bromobenzenesulfonamide | 1.61 mmol, 0.38 g | BrC=1C=C(C=CC1)S(=O)(=O)N | C6H6BrNO2S
reactant | cesium carbonate | 2.87 mmol, 0.93 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | 15.00 ml | O1CCOCC1 | C4H8O2
product | 2-methyl-5-(3-sulfamoyl-phenylamino)-thiazole-4-carboxylic acid ethyl ester | 0.13 g, 24% | C(C)OC(=O)C=1N=C(SC1NC1=CC(=CC=C1)S(N)(=O)=O)C | C13H15N3O4S2
